US09107916B2
A. (4-iodo-2-methoxyphenyl)methanol
A solution of methyl 4-iodo-2-methoxybenzoate (840 mg, 2.88 mmol) in THF was purged with nitrogen and cooled to −78° C. DIBALH (6 mL, 5.75 mmol, 1M in toluene) was added slowly. The mixture was then stirred at the same temperature for an hour. Saturated aqueous NH4Cl solution was added, followed by extraction with ethyl acetate twice. The organic phase was then washed with brine and dried with anhydrous Na2SO4. Solvent was removed and the resulting residue purified by flash column chromatograph to give 237 mg of the title compound (31%). 1H NMR (400 MHz, CDCl3): δ 2.17 (1H, s), 3.84 (3H, s), 4.62 (2H, d, J=4.0 Hz), 7.01 (1H, d, J=7.6 Hz), 7.18 (1H, s), 7.29 (1H, d, J=8.0 Hz).

reactant | methyl 4-iodo-2-methoxybenzoate | 2.88 mmol, 840 mg | IC1=CC(=C(C(=O)OC)C=C1)OC | C9H9IO3
reactant | DIBALH | 5.75 mmol, 1M, 6 mL | CC(C)C[AlH]CC(C)C
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
product | (4-iodo-2-methoxyphenyl)methanol | 237 mg, 31% | IC1=CC(=C(C=C1)CO)OC | C8H9IO2
